Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
Pacemaker placement ___

 
History of Present Illness:
Ms ___ is an ___ F h/o afib who first presented at OSH 
for acute confusion. This morning, the patient's neighbor went 
upstairs to wish her Merry Christmas and found her on the couch, 
altered and not responding appropriately. EMS was called and 
they noted the patient to be bradycardic to 26 bpm and 
hypotensive to SBP 50-60s on arrival. She was transported to 
___, where she was given peripheral levophed, dopamine at 20 
mcg/kg/min and glucagon. There was no apparent benefit from the 
glucagon. Labs were notable for leukocytosis to 15.4, Cr 
2(unknown baseline), INR 2.4, lactate 5.7. CT of the head was 
obtained in the setting of AMS, which was negative per report. 
Per report, mental status improved with VS. ECG from the outside 
hospital was notable for slow atrial flutter, per report. 

In the ED, initial vitals were: T96.0, HR84, BP105/68, RR17, 90% 
2L NC on dopamine 15 and levophed 0.2
Exam notable for: AAOx3. RRR, systolic ejection murmur at RUSB, 
JVP ~8 cm H2O, abdomen soft nontender, nondistended, no 
peripheral edema.
Patient adamantly refusing any non-compliance with her beta 
blocker. States she uses a pill box and thus has not taken any 
extra dose.
Labs notable for:
WBC: 16.8  Hgb: 12.4  Plt: 283 
139|100| 38      AGap=20 
------------<113 
5.1| 19|1.6  
lactate 1.6
VBG 7.36/ pCO2 44
O2Sat: 74 
UA: neg leuks, mod blood, nitrite neg, protein 30, glu neg, ket 
neg, RBC 43, WBC 5, bact none, epi <1
BCx, UCx sent
Studies notable for: CT head w/o acute process, CXR: Compared to 
prior examination, there is an placement of a right IJ central 
venous catheter terminating in the mid SVC, satisfactory. 
Moderate  cardiomegaly is unchanged. There is central pulmonary 
vascular congestion with only trace interstitial edema. 
Otherwise no consolidation is seen. There is no large effusion 
or pneumothorax. 
Patient was given: 
IV DRIP DOPamine 15 mcg/kg/min 
IV DRIP NORepinephrine 0.24 mcg/kg/min 
IV Vancomycin (1000 mg ordered)
Cardiology was consulted and recommended admission to the CCU.
Vitals on transfer: T97.4, HR112, BP110/81, RR19, 96% RA 

On arrival to the CCU, patient reports no ongoing symptoms, 
including no chest pain, palpitations, lightheadedness, 
dizziness, nausea, diaphoresis, presyncope. She confirms the 
above story and states that this morning she felt dizzy, 
diaphoretic and weak all of a sudden. She denies any fevers, 
chills, cough, colds, nausea/vomiting/diarrhea, rashes, dysuria 
or other symptoms prior to this morning. She reports compliance 
with her medications. 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- coronaries
- pumping function
- rhythm: afib
3. OTHER PAST MEDICAL HISTORY 
-aortic stenosis
-atrial fibrillation
-osteopenia
-gastroesophageal reflux disease
-dementia

 
Social History:
___
Family History:
Mom and brother with 'heart conditions', but patient unsure what 
kind. No history of pacemaker placement or stroke in the family. 
MGM with cancer (unclear what type)

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
VS: AF HR 107 BP 111/78 RR12 O2 SAT 94% NC
GENERAL: Well developed, well nourished elderly woman in NAD. 
Oriented x3 (though does not know president and city ___ is 
in). Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Erythema around eyes. No pallor or cyanosis of the oral mucosa. 
No xanthelasma. Oropharynx clear
NECK: Fleshy neck w/ no obvious masses on palpation. JVP of 7 
cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Irregularly irregular heart rhythm. ___ systolic murmur 
over RUSB, no gallops or rubs 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: cool all over but distal pulses palpable. No 
clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: Grossly intact strength and sensation bilaterally. CN 
II-XII grossly intact. 

DISCHARGE PHYSICAL EXAMINATION
VS: reviewed in ___
GENERAL: Well developed, well nourished elderly woman in NAD.
Oriented x3 (though does not know president and city ___ is
in). Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Erythema around eyes. JVP difficult to assess given habitus. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Irregularly irregular heart rhythm. ___ systolic murmur
over RUSB, no gallops or rubs 
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: cool all over but distal pulses palpable. No
clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.    
NEURO: Grossly intact strength and sensation bilaterally. CN
II-XII grossly intact.

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:35PM BLOOD WBC-16.8* RBC-3.98 Hgb-12.4 Hct-37.6 
MCV-95 MCH-31.2 MCHC-33.0 RDW-12.7 RDWSD-44.0 Plt ___
___ 03:35PM BLOOD Neuts-86.3* Lymphs-4.4* Monos-7.7 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.50* AbsLymp-0.74* 
AbsMono-1.29* AbsEos-0.01* AbsBaso-0.03
___ 03:35PM BLOOD ___
___ 03:35PM BLOOD Glucose-113* UreaN-38* Creat-1.6* Na-139 
K-5.1 Cl-100 HCO3-19* AnGap-20*
___ 01:26AM BLOOD Calcium-9.4 Phos-4.8* Mg-2.0
___ 03:35PM BLOOD TSH-5.5*
___ 06:16PM BLOOD ___ pO2-44* pCO2-44 pH-7.36 
calTCO2-26 Base XS-0
___ 06:46PM BLOOD Lactate-1.6

MICROBIOLOGY
============
__________________________________________________________
___ 3:35 pm Blood (LYME)

                            **FINAL REPORT ___

   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
      Negative results do not rule out B. burg___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody. 
__________________________________________________________
___ 6:40 pm BLOOD CULTURE      SET#2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:30 pm BLOOD CULTURE      SET#1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 3:35 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
==============
___ 07:35AM BLOOD WBC-9.3 RBC-3.40* Hgb-10.7* Hct-33.1* 
MCV-97 MCH-31.5 MCHC-32.3 RDW-13.2 RDWSD-46.2 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD ___ PTT-31.6 ___
___ 07:35AM BLOOD Glucose-87 UreaN-13 Creat-0.5 Na-144 
K-4.2 Cl-106 HCO3-23 AnGap-15
___ 07:35AM BLOOD Calcium-8.5 Phos-2.5* Mg-1.9
___ 03:35PM BLOOD TSH-5.5*
___ 01:26AM BLOOD Free T4-1.0

STUDIES/IMAGING
===============
___ Imaging CHEST (PORTABLE AP) 
Compared to prior examination, there is an placement of a right 
IJ central 
venous catheter terminating in the mid SVC, satisfactory.  
Moderate 
cardiomegaly is unchanged.  There is central pulmonary vascular 
congestion 
with only trace interstitial edema.  Otherwise no consolidation 
is seen.  
There is no large effusion or pneumothorax. 

___ Cardiovascular ECHO 
 The left atrial volume index is severely increased. Mild 
symmetric left ventricular hypertrophy with normal cavity size, 
and regional/global systolic function (3D LVEF = 59%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are severely thickened/deformed. There is 
very severe aortic valve stenosis (valve area 0.5 cm2). Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is mild functional mitral stenosis (mean 
gradient 5 mmHg) due to mitral annular calcification. Moderate 
(2+) mitral regurgitation is seen. The tricuspid valve leaflets 
are mildly thickened. Moderate to severe [3+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion.
 IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. Very severe aortic stenosis. 
Mild aortic regurgitation. Moderate mitral regurgitation. 
Moderate to severe tricuspid regurgitation. Moderate pulmonary 
hypertension.  

___ Cardiovascular EP Procedure Report 
• Successful implantation of a dual chamber pacemaker.
• There were no complications.

___ Imaging CHEST (PA & LAT) 
Hyperinflation is probably due to emphysema.  Moderate 
cardiomegaly, with 
particular left atrial enlargement has improved.  Transvenous 
right atrial and right ventricular pacer leads continuous from 
the left pectoral generator unchanged in their positions.  There 
is no pneumothorax or mediastinal widening.  
Given the simultaneous onset of heterogeneous opacification more 
pronounced in the right lung on ___, I think it all is 
attributable to heart failure and pulmonary edema.  Subsequently 
the multifocal abnormality in the right lung has substantially 
improved, and small to moderate pleural effusions are stable, 
but there is now the suggestion of new consolidation at the left 
lung base, more concerning for pneumonia.  There is no 
pneumothorax.  
Indwelling right jugular line ends in the mid to low SVC. 

___ Imaging CTA ABD & PELVIS 
1. Bilateral femoral, external iliac, and common iliac arteries 
are patent and without significant calcium burden or tortuosity. 

2. 11 mm left adrenal nodule is not fully characterized on this 
study, but 
statistically likely represents an adenoma. 
3. Pericholecystic fluid, periportal edema, bilateral pleural 
effusions and subcutaneous edema suggestive of fluid overload. 
4. Please refer to the separate report of CT chest performed on 
the same day for description of the thoracic findings. 

___ Imaging CARDIAC STRUCTURE/MORPH 
1. Aortic valve stenosis without evidence of aortic aneurysm. 
2. Patent subclavian and common femoral arteries bilaterally 
with lumen 
diameter greater than 6 mm. 
3. Pulmonary parenchymal abnormalities are suggestive of volume 
overload/pulmonary edema. 
4. Small to moderate bilateral nonhemorrhagic pleural effusions. 

5. Extensive coronary arterial calcifications. 
6. Please see separately submitted report of CTA abdomen and 
pelvis from the same date for findings below the diaphragm. 

___ Imaging UNILAT UP EXT VEINS US  
Short segment partially occlusive clot within the cephalic vein 
as it crosses the antecubital fossa.  No evidence of DVT. 
 
Brief Hospital Course:
PATIENT SUMMARY
==============
Ms. ___ is an ___ with a history of HTN, HLD, afib 
here w/ symptomatic bradycardia and hypotension, found to have 
complete heart block, s/p permanent pacemaker placement on 
___, noted to have severe AS on ECHO completed while 
inpatient.

ACUTE ISSUES :
================
# Complete heart block
# Symptomatic bradycardia
# Atrial fibrillation
Patient presented with acute onset symptomatic bradycardia with 
dizziness, hypotension, diaphoresis. She was noted to have 
complete heart block on ECG on a background of atrial flutter/ 
fibrillation, prompting CCU admission. She was supported with 
pressors until a dual chamber pacemaker was placed (___). 
Etiology remains unclear; possible nodal agent overdose (pt 
denies) vs infection (leukocytosis on admission, but infectious 
w/u negative), vs hypothyroidism (TSH elevated at 5.5). After 
pacemaker placement, patient was restarted on Metoprolol 
Succinate XL at an increase dose of 200 mg daily and her home 
Diltiazem ER dose was increased to 240 mg daily. Physical 
therapy recommended discharge to home with home ___.

# Shock
On presentation, patient was hypotensive to ___ systolic iso 
bradycardia and complete heart block. Infectious workup was 
negative, no focal exam findings. Lactate was initially elevated 
to 5.4, improved with IVF, and she was weaned off pressors. TTE 
with symmetric LVH, severe AS, but with normal global and 
regional biventricular systolic function.

# ___
Creatinine elevated at 1.6 on admission, likely hypovolemic iso 
bradycardia from complete heart block. ___ now resolved with 
fluids and placement of pacemaker. Creatinine on day of 
discharge 0.5.

# Severe Aortic Stenosis
Patient asymptomatic, but noted to have severe AS on ECHO ___. 
Per ECHO, "Severely thickened/deformed aortic valve leaflets. 
Very severe AS, Mild (1+)AR." While inpatient she was evaluated 
by the cardiac surgery team and deemed to be a high risk 
surgical candidate. Patient will undergo outpatient TAVR workup.

# Atrial fibrillation
CHADS2VASC minimum 5 (age, female, HTN, CHF). Home meds are 
coumadin, diltiazem and metoprolol. Patient's home Coumadin was 
initially held and was restarted after pacemaker placement at 
3mg daily, with goal INR ___. Metoprolol and diltiazem were 
initially held given hypotension, and restarted prior to 
discharge at Metoprolol Succinate XL 200 mg daily and Diltiazem 
ER 240mg daily.

# UTI: 
Urine culture grew pan sensitive E. Coli infection. Started on 
Cefepime, transitioned to Macrobid for a total 7 day course, 
which will end ___.

CHRONIC ISSUES:
=================
# Hypertension: 
Anti-hypertensive medications nitially held in the setting of 
hypotension, discharged on Metoprolol Succinate XL 200 mg. 
Diltiazem ER was increased to 240mg daily.

# Dementia: Continued donepezil and memantine.

# HLD: Continued home pravastatin.

TRANSITIONAL ISSUES:
=====================
[] Aortic Stenosis:
Patient will be evaluated by structural heart team as outpatient 
for further TAVR work up.
[] Nortriptyline:
Discuss alternative medication, Nortriptyline was held given 
potential cardiac interaction.

Discharge weight: 62.5 kg
Discharge creatinine: 0.5

# Code Status: Full, confirmed
# CONTACT/HCP: ___, niece, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Namzaric (memantine-donepezil) ___ mg oral DAILY 
2. Pravastatin 80 mg PO QPM 
3. Potassium Chloride 10 mEq PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Nortriptyline 25 mg PO QHS 
6. Diltiazem Extended-Release 120 mg PO DAILY 
7. Warfarin 3 mg PO DAILY16 
8. Aspirin 81 mg PO DAILY 
9. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 4 
Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
every 12 hours Disp #*2 Capsule Refills:*0 
2.  Diltiazem Extended-Release 240 mg PO DAILY 
RX *diltiazem HCl 240 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Metoprolol Succinate XL 200 mg PO DAILY 
RX *metoprolol succinate 200 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Cyanocobalamin 100 mcg PO DAILY  
6.  Namzaric (memantine-donepezil) ___ mg oral DAILY  
7.  Potassium Chloride 10 mEq PO DAILY  
8.  Pravastatin 80 mg PO QPM  
9.  Warfarin 3 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Complete Heart Block
Shock
Acute Kidney Injury
Severe Aortic Stenosis
Urinary Tract Infection

SECONDARY DIAGNOSES
===================
Atrial Fibrillation
Dementia
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a pleasure taking part in your care here at ___!
 
Why was I admitted to the hospital?
- You were admitted for confusion and a slow heart rate caused 
by a problem with the electrical connections of your heart. 
 
What was done for me in the hospital?
- You were given medications to help your blood pressure and to 
help your symptoms.
- A permanent pacemaker was placed in your heart on ___.
- You had pictures taken of your heart, which showed that your 
aortic valve has gotten smaller over the years. Members of the 
"TAVR" team saw you in the hospital to talk to you about the 
possibility of replacing your valve. 
- You were treated with antibiotics for an infection in your 
urine.
 
What should I do when I leave the hospital?
- Please take all of your medicines and attend all of your 
follow-up appointments. 

 
We wish you the best of luck in your health!
 
Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___